data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1608,1777,[CH3:19][C:20](=[O:21])[C:22]([CH3:23])=[N+:24]([CH3:25])[N-:26][C:27]#[N:28].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([C:11]#[N:12])([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([C:11]#[N:12])([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:22]([C:20]([CH3:19])=[O:21])([CH3:23])[N:24]([CH3:25])[N:26]2[C:27]#[N:28],water,298.15,20.9467969972482,-24.59108003938787
1027,1120,[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[nH+:16][c:17]([C:18]#[N:19])[o:20][c:21]1=[O:22].[Cl:1][C:2]1([Cl:3])[C:4]#[C:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1>>[Cl:1][C:2]1([Cl:3])[C:4]2=[C:5]([CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1)[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[NH:16][C:17]2([C:18]#[N:19])[O:20][C:21]1=[O:22],water,298.15,13.685942036829436,-24.698397221955968
1403,1544,[CH3:10][C:11]([C:12]#[N:13])=[N+:14]([CH3:15])[C-:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[N:1]#[C:2][C:3]12[CH:4]([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:11]([CH3:10])([C:12]#[N:13])[N:14]([CH3:15])[C:16]2([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,12.832781300678857,-30.029609736974145
4296,4915,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([C:20]#[N:21])[n+:22]1[CH3:23]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]1([C:13]([O:12][CH3:11])=[O:14])[C:16](=[O:17])[O:18][C:19]2([C:20]#[N:21])[N:22]1[CH3:23],water,298.15,36.41135726250271,14.71419546512124
30,34,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][F:7].[CH3:8][C:9]#[N+:10][C-:11]([C:12]#[N:13])[C:14]#[N:15]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[C:11]([C:12]#[N:13])([C:14]#[N:15])[N:10]=[C:9]1[CH3:8],water,298.15,17.645399883593914,-61.247184625272645
2091,2319,[CH3:1][C:2](=[O:3])[C:4]([C:5]([CH3:6])=[O:7])=[C:8]([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:21][O:22][C:23](=[O:24])[C:25]#[N+:26][C-:27]([C:28]#[N:29])[C:30]([CH3:31])=[O:32]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:27]([C:28]#[N:29])([C:30]([CH3:31])=[O:32])[N:26]=[C:25]1[C:23]([O:22][CH3:21])=[O:24],water,298.15,22.25872218149,-11.683688277891529
636,696,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][NH:10][C:11](=[O:12])[c:13]1[nH+:14][c-:15]([C:16](=[O:17])[NH:18][CH3:19])[c:20](=[O:21])[o:22]1>>[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:13]1([C:11]([NH:10][CH3:9])=[O:12])[NH:14][C:15]3([C:16](=[O:17])[NH:18][CH3:19])[C:20](=[O:21])[O:22]1,water,298.15,16.448382110090748,-20.68512162361965
2640,2927,[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][NH:22][C:23](=[O:24])[C:25]([CH3:26])=[O+:27][C-:28]([C:29]([CH3:30])=[O:31])[C:32](=[O:33])[O:34][CH3:35]>>[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:28]([C:29]([CH3:30])=[O:31])([C:32](=[O:33])[O:34][CH3:35])[O:27][C:25]2([C:23]([NH:22][CH3:21])=[O:24])[CH3:26],water,298.15,26.40659536976241,-52.46526274262629
3004,3356,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C-:7]([CH3:8])[NH+:9]=[CH:10][C:11]([CH3:12])=[O:13]>>[CH2:1]1[CH2:2][C:7]([C:5]([NH:4][CH3:3])=[O:6])([CH3:8])[NH:9][CH:10]1[C:11]([CH3:12])=[O:13],water,298.15,18.292808208000213,-26.074449993797856
4042,4631,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C-:16]([C:17]#[N:18])[N+:19]#[C:20][C:21]#[N:22]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:16]([CH3:15])([C:17]#[N:18])[N:19]=[C:20]2[C:21]#[N:22],water,298.15,10.089438106177411,-33.89246156136141
5149,5847,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[c:18]1[o:19][c:20](=[O:21])[c-:22](-[c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[n+:29]1[CH3:30]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:22]1([c:23]3[cH:24][cH:25][cH:26][cH:27][cH:28]3)[C:20](=[O:21])[O:19][C:18]2([C:16]([CH3:15])=[O:17])[N:29]1[CH3:30],water,298.15,25.58135030713216,15.098742495317929
